US07253165B2
Synthesis of {3-[4-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-propyl}-(2-fluoro-benzyl)-amine (Scheme III, Compound 1b)
The title compound is prepared from a mixture of 3-[4-(3-bromo-propoxy)-phenyl]-6-fluoro-benzo[d]isoxazole, 2-fluorobenzylamine, potassium carbonate, potassium iodide and 4% aqueous acetonitrile essentially as described above in Example 13. Purity by LC/MS=94%, [M+H]+=395.

reactant | 3-[4-(3-bromo-propoxy)-phenyl]-6-fluoro-benzo[d]isoxazole | BrCCCOC1=CC=C(C=C1)C1=NOC2=C1C=CC(=C2)F | C16H13BrFNO2
reactant | 2-fluorobenzylamine | FC1=C(CN)C=CC=C1 | C7H8FN
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | {3-[4-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-propyl}-(2-fluoro-benzyl)-amine | FC1=CC2=C(C(=NO2)C2=CC=C(OCCCNCC3=C(C=CC=C3)F)C=C2)C=C1 | C23H20F2N2O2
